US04916148
A solution of 8-bromomethyl-4,7-dimesyl-1,1-dimethyl-2(1H)-naphtho[2,1-b]furanone in acetonitrile (5 ml) was treated with 1,2,4-triazole (0.2 g) and potassium carbonate (0.14 g), and the mixture was stirred under reflux for 18 h. The mixture was diluted with water, neutralised with glacial acetic acid and extracted with ethyl acetate, and the ethyl acetate extract was dried and evaporated to dryness under reduced pressure. The residue was purified by flash chromatography, using methanol:ethyl acetate, 1:99 v/v as eluant, to give 4,7-dimesyl-1,1-dimethyl-8-(1H-1,2,4-triazol-1-ylmethyl)-2(1H)-naphtho[2,1-b]furanone, m.p. 263°-264° after recrystallisation from ethyl acetate.

reactant | 8-bromomethyl-4,7-dimesyl-1,1-dimethyl-2(1H)-naphtho[2,1-b]furanone | BrCC1=C(C=C2C=C(C=3OC(C(C3C2=C1)(C)C)=O)S(=O)(=O)C)S(=O)(=O)C | C17H17BrO6S2
reactant | 1,2,4-triazole | 0.2 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4,7-dimesyl-1,1-dimethyl-8-(1H-1,2,4-triazol-1-ylmethyl)-2(1H)-naphtho[2,1-b]furanone | S(=O)(=O)(C)C1=CC2=CC(=C(C=C2C2=C1OC(C2(C)C)=O)CN2N=CN=C2)S(=O)(=O)C | C19H19N3O6S2
